US08022097B2
Adamantane-1,3-dicarbaldehyde
To a suspension of pyridinium chlorochromate (PCC, 0.850 g, 4.0 mmol) in CH2Cl2 (˜10 mL) was added a suspension of 1,3-bis(hydroxymethyl)adamantane (0.196 g, 1.0 mmol) in anhydrous THF (˜5 mL). The reaction mixture was stirred at room temperature for 2.5 hours, whereupon it was diluted with anhydrous diethyl ether (˜50 mL) and filtered through a plug of florisil. The filtrate was evaporated in vacuo to afford dicarbaldehyde (0.183 g, 95%). According to GC analysis (DB 210, 150° C.), product had a purity of over 95%. Since dialdehyde is unstable and decomposes on silica gel, the sample was used in the next step without further purification.

reactant | pyridinium chlorochromate | 4.0 mmol, 0.850 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | 1,3-bis(hydroxymethyl)adamantane | 1.0 mmol, 0.196 g | OCC12CC3(CC(CC(C1)C3)C2)CO | C12H20O2
solvent | CH2Cl2 | ˜10 mL | C(Cl)Cl | CH2Cl2
solvent | THF | ˜5 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | ˜50 mL | C(C)OCC | C4H10O
product | Adamantane-1,3-dicarbaldehyde | C12(CC3(CC(CC(C1)C3)C2)C=O)C=O | C12H16O2
